US05210092
A mixture of 3-(4-methylphenyl)furane-2-carbaldehyde (1.0 g), hydroxylamine hydrochloride (560 mg), and sodium acetate (660 mg) in 60% aqueous ethanol (10 ml) was stirred for one and half hours at 65° C. The mixture was concentrated in vacuo. The residue was dissolved in a mixture of ethyl acetate and aqueous sodium bicarbonate solution. The organic layer was washed with brine, dried, and concentrated in vacuo to give a yellow solid. A mixture of the solid and sodium acetate (56 mg) in acetic anhydride (10.5 ml) was refluxed for 5 hours and then evaporated in vacuo. The residue was purified by column chromatography on silica gel (elution by n-hexane/ethyl acetate=15/1) to yield 3-(4-methylphenyl)furane-2-carbonitrile (884 mg) as a yellow oil.

reactant | 3-(4-methylphenyl)furane-2-carbaldehyde | 1.0 g | CC1=CC=C(C=C1)C1=C(OC=C1)C=O | C12H10O2
reactant | hydroxylamine hydrochloride | 560 mg | Cl.NO
reactant | sodium acetate | 660 mg | C(C)(=O)[O-].[Na+]
reactant | sodium acetate | 56 mg | C(C)(=O)[O-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | acetic anhydride | 10.5 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(4-methylphenyl)furane-2-carbonitrile | 884 mg | CC1=CC=C(C=C1)C1=C(OC=C1)C#N | C12H9NO
